US05658858
Ethyl 2,4-dibromo-3-hydroxybenzoate (50 g) was added to a stirred suspension of potassium carbonate (106.4 g) in dry N,N-dimethylformamide (DMF). A solution of iodoethane (25.7 g) in DMF was added over 18 minutes, and the resulting mixture was heated at 85° C. for 1.3 hours. The cooled mixture was poured onto water and extracted with ether. The extract was washed (brine solution), dried (anhydrous magnesium sulphate) and the solvent evaporated in vacuo to give ethyl 2,4-dibromo-3-ethoxybenzoate (52.08 g), NMR 1.4(t,3H), 1.5(t,3H), 4.1(q,2H), 4.4(q,2H), 7.35(d,1H), 7.55(d,1H).

reactant | Ethyl 2,4-dibromo-3-hydroxybenzoate | 50 g | BrC1=C(C(=O)OCC)C=CC(=C1O)Br | C9H8Br2O3
reactant | potassium carbonate | 106.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 25.7 g | ICC | C2H5I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 2,4-dibromo-3-ethoxybenzoate | 52.08 g | BrC1=C(C(=O)OCC)C=CC(=C1OCC)Br | C11H12Br2O3
